US05157038
Preparation of 8-butylcarbamoyl-3-methyl-4-methylene-2-oxo-1-oxa-3,8-diazaspiro[4,5]decane
2.25 ml of n-butyl isocyanate are dropped to a suspension of 3.64 g of 3-methyl-4-methylene-2-oxo-1-oxa-3,8-diazaspiro[4,5]decane in 18 ml of acetonitrile while stirring under argon. Since the reaction is exothermic, the temperature is maintained at 25° to 30° C. by cooling. After 15 minutes the reaction mixture is evaporated under reduced pressure. The white solid evaporation residue is recrystallized from ethyl acetate to obtain the title compound in 91.3% yield, m.p.: 129°-130° C.

reactant | n-butyl isocyanate | 2.25 ml | C(CCC)N=C=O | C5H9NO
reactant | 3-methyl-4-methylene-2-oxo-1-oxa-3,8-diazaspiro[4,5]decane | 3.64 g | CN1C(OC2(C1=C)CCNCC2)=O | C9H14N2O2
solvent | acetonitrile | 18 ml | C(C)#N | C2H3N
product | 8-butylcarbamoyl-3-methyl-4-methylene-2-oxo-1-oxa-3,8-diazaspiro[4,5]decane | 91.3% yield | C(CCC)NC(=O)N1CCC2(C(N(C(O2)=O)C)=C)CC1 | C14H23N3O3
